US08022062B2
6-Dimethylthiocarbamoyloxy-7-methyl-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine:
Dissolve 6-hydroxy-7-methyl-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (1.0 g, 3.66 mmol) in acetone (50 mL). Add potassium carbonate (1.517 g, 10.98 mmol) and dimethylthiocarbamoyl chloride (0.904 g, 7.32 mmol). Heat the mixture at reflux overnight. Remove the solvent in vacuo and partition the residue between water and DCM. Dry the organic phase over Na2SO4, filter and concentrate. Purify by chromatography on silica gel eluting with hexane/EtOAc (1:0 and 9:1) to obtain the desired intermediate as a solid (1.18 g, 90%). MS (ES+) m/z: 361 (M+H)+.

reactant | 6-hydroxy-7-methyl-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 3.66 mmol, 1.0 g | OC1=C(C=CC=2CCN(CCC21)C(C(F)(F)F)=O)C | C13H14F3NO2
reactant | potassium carbonate | 10.98 mmol, 1.517 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylthiocarbamoyl chloride | 7.32 mmol, 0.904 g | CN(C(=S)Cl)C | C3H6ClNS
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | 6-Dimethylthiocarbamoyloxy-7-methyl-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 1.18 g, 90% | CN(C(=S)OC1=C(C=CC=2CCN(CCC21)C(C(F)(F)F)=O)C)C | C16H19F3N2O2S
